US04168976
2-Methoxy-4-(4-vinylphenylamino)-6-chloro-s-triazine
To a solution of 16.4 g. (0.1 mole) 2-methoxy-4,6-dichloro-s-triazine in 150 ml. of acetone being stirred at 0°-5° C. was added dropwise over a 1/2 hr. period a solution of 11.9 g. (0.1 mole) of vinylaniline and 12.9 g. (0.1 mole) of N,N-di-iso-propylethylamine. After stirring at room temperature for 2 hr., the solution was poured into 1 l of ice water to isolate the product. The crude product was collected by filtration and dried in vacuo at room temperature to give 24.9 g. Recrystallization was effected by dissolution in 75 ml. of hot benzene followed by addition of ligroin to the cloud point. Yield=20.5 g. (78%) (mp 118°-122°).

reactant | 2-methoxy-4,6-dichloro-s-triazine | 0.1 mole | COC1=NC(=NC(=N1)Cl)Cl | C4H3Cl2N3O
reactant | vinylaniline | 0.1 mole | C(=C)NC1=CC=CC=C1 | C8H9N
reactant | N,N-di-iso-propylethylamine | 0.1 mole | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetone | CC(=O)C | C3H6O
product | 2-Methoxy-4-(4-vinylphenylamino)-6-chloro-s-triazine | COC1=NC(=NC(=N1)NC1=CC=C(C=C1)C=C)Cl | C12H11ClN4O
